US07465815B2
4,6-Dimethyl-2,3-dihydro-1-benzofuran-5-amine
Using N-benzyl-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 270, the title compound was synthesized in the same manner as in Reference Example 30. Yield 86%. Melting point: 85-86° C. (ethyl acetate-hexane).

reactant | N-benzyl-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=CC2=C(CCO2)C1C)C | C17H19NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4,6-Dimethyl-2,3-dihydro-1-benzofuran-5-amine | Yield 86% | CC1=C(C(=CC2=C1CCO2)C)N | C10H13NO
